US07273952B2
3.87 g (6-bromonaphthalen-2-yloxy)-tert.-butyldimethylsilane were dissolved in 19 ml THF p.a., 6.0 ml 1.6 M butyl lithium solution in hexane added dropwise with dry ice cooling, briefly stirred, then a solution of 2.00 g 4-benzyloxy-2-dimethylaminomethylcyclohexanone in 20 ml THF p.a. added dropwise and stirred for 1 hour while slowly heating. For working up, 4 ml water were added to the ice bath, the organic phase separated, the aqueous phase extracted twice with diethyl ether, the combined organic phases dried by sodium sulphate, filtered and concentrated. The crude product obtained (5.00 g) was chromatographed with ethyl acetate/methanol (V/V=1:1) on silica gel. 2.20 g 6-(4-benzyloxy-2-dimethylaminomethyl-1-hydroxy-cyclohexyl)-naphthalen-2-ol were obtained and converted into the corresponding hydrochloride (1.33 g) in the same way as in AAV 1.

reactant | (6-bromonaphthalen-2-yloxy)-tert.-butyldimethylsilane | 3.87 g | BrC=1C=C2C=CC(=CC2=CC1)O[Si](C)(C)C(C)(C)C | C16H21BrOSi
reactant | butyl lithium | 1.6 M, 6.0 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | 4-benzyloxy-2-dimethylaminomethylcyclohexanone | 2.00 g | C(C1=CC=CC=C1)OC1CC(C(CC1)=O)CN(C)C | C16H23NO2
solvent | THF | 19 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 6-(4-benzyloxy-2-dimethylaminomethyl-1-hydroxy-cyclohexyl)-naphthalen-2-ol | 2.20 g | C(C1=CC=CC=C1)OC1CC(C(CC1)(O)C=1C=C2C=CC(=CC2=CC1)O)CN(C)C | C26H31NO3
